US07718600B2
(S)-2-(6-phenyl-hex-1-enyl)-N-Boc-pyrrolidine (45 e) (PAA 81).
(S)-2-phenethyl-N-Boc-pyrrolidine (44 a) (PAA 2-28). A 10-mL round-bottom flask fitted with a 3-way tap and balloon was charged with 160 mg of 10% Pd—C. The flask was evacuated and filled with hydrogen gas 10 times. EtOH (5 mL) was added via syringe and stirred for several minutes. Alkene 45 a (260 mg,) in 2 mL EtOH was added via syringe and stirred for 24 h. Hydrogen gas was added as the balloon deflated. Upon complete reaction the catalyst was removed by filtration. The product was concentrated in vacuo to yield 251 mg (97%) of colorless oil. 1H NMR (CDCl3, 300 MHz) δ 7.19-7.30 (m, 5H), 3.76-3.88 (br m, 1H), 3.34-3.43 (br m, 2H), 2.59-2.62 (m, 2H), 1.62-2.16 (m, 6H), 1.46 (s, 9H).

reactant | (S)-2-phenethyl-N-Boc-pyrrolidine | C(CC1=CC=CC=C1)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C17H25NO2
catalyst | Pd—C | 160 mg | [Pd] | Pd
product | (S)-2-(6-phenyl-hex-1-enyl)-N-Boc-pyrrolidine | 251 mg, 97% | C1(=CC=CC=C1)CCCCC=C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H31NO2
